US08420629B2
Step 2. diisopropyl 3-(cyanomethylene)cyclobutane-1,1-dicarboxylate
To a mixture of 1.0000 M of potassium tert-butoxide in tetrahydrofuran (17 mL) and THF (10 mL) was added dropwise, at 0° C., diethyl cyanomethylphosphonate (2.7 mL, 0.017 mol). The reaction was warmed to rt and 30 min later cooled to 0° C. again. To the reaction mixture was added a solution of diisopropyl 3-oxocyclobutane-1,1-dicarboxylate (2.7 g, 0.011 mol) in THF (10 mL). The reaction was allowed to warm up to rt gradually and stirred at rt for 2 h. The reaction was quenched with saturated aq. NH4Cl and the organic solvent was reduced. The mixture was extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4, concentrated and purified with Combiflash (silica gel, 0-35% EtOAc/Hex) to give the desired product (2.65 g) as light yellow oil.

reactant | potassium tert-butoxide | 1.0000 M | CC(C)([O-])C.[K+]
reactant | diethyl cyanomethylphosphonate | 0.017 mol, 2.7 mL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | diisopropyl 3-oxocyclobutane-1,1-dicarboxylate | 0.011 mol, 2.7 g | O=C1CC(C1)(C(=O)OC(C)C)C(=O)OC(C)C | C12H18O5
solvent | tetrahydrofuran | 17 mL | O1CCCC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | diisopropyl 3-(cyanomethylene)cyclobutane-1,1-dicarboxylate | 2.65 g | C(#N)C=C1CC(C1)(C(=O)OC(C)C)C(=O)OC(C)C | C14H19NO4
